US07160625B2
50 ml of dry n-pentane, 20 ml of dry ether and 8.09 g (47.6 mmol) of tetrachlorosilane were charged in a 200 ml Schlenk tube reactor equipped with a stirring apparatus in a stream of nitrogen, and a liquid having 7.20 g (100 mmol) of the above prepared cyclopentadienyl lithium slurried with 70 ml of n-pentane was dropwise added thereto by means of an injector at room temperature over a period of 10 minutes. After completion of the dropwise addition, stirring was carried out at room temperature for 24 hours. After completion of the reaction, lithium chloride was removed from the reaction liquid slurry by means of a glass filter, and n-pentane was distilled off to obtain dicyclopentadienyldichlorosilane.

reactant | tetrachlorosilane | 47.6 mmol, 8.09 g | Cl[Si](Cl)(Cl)Cl | Cl4Si
reactant | cyclopentadienyl lithium | C1(C=CC=C1)[Li]
reactant | lithium chloride | [Cl-].[Li+]
solvent | n-pentane | 70 ml | CCCCC | C5H12
solvent | ether | 20 ml | CCOCC | C4H10O
solvent | n-pentane | 50 ml | CCCCC | C5H12
product | dicyclopentadienyldichlorosilane | C1(C=CC=C1)[Si](Cl)(Cl)C1C=CC=C1 | C10H10Cl2Si
